US06620811B2
To a stirred solution of 0.52 ml (8.90 mmol) ethanol in 30 ml dioxane at room temperature was added 486 mg (11.1 mmol) sodium hydride (55% dispersion in mineral oil) and the mixture heated at 50° C. for 30 minutes. 1.00 g (2.23 mmol) 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide was then added and the mixture heated at 115° C. for 72 h. The reaction mixture was then cooled to room temperature and concentrated in vacuo. The residue was resuspended in dichloromethane, and washed sequentially with water and saturated brine. The organic phase was then dried over sodium sulfate and concentrated in vacuo. The residue was resuspended in methanol and concentrated in vacuo to 2 ml, 20 ml ether added, and the resulting crystals were collected by filtration and dried in vacuo to afford 410 mg (44%) 2-ethoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide as a light yellow crystalline solid.

reactant | ethanol | 8.90 mmol, 0.52 ml | C(C)O | C2H6O
reactant | sodium hydride | 11.1 mmol, 486 mg | [H-].[Na+]
reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 2.23 mmol, 1.00 g | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-ethoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 410 mg, 44% | C(C)OC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C20H22N4O4S
